Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left arm pain
 
Major Surgical or Invasive Procedure:
Cervical epidural injection of ropivocaine and glucocorticoid

 
History of Present Illness:
___ y/o M PMH significant for non-hodgkin's lymphoma, relapsed 
diffuse large b cell lymphoma s/p 6 cycles of CHOP, no longer on 
protocol for his ___ for peripheral neuropathy who is being 
admitted for worsening pain.

Approximately 1.5 weeks prior to seeing urgent care, he 
developed ___ L shoulder stabbing/burning pain radiating to his 
neck as well as his left hand. This pain persisted and he saw 
his pcp who recommended taking tramadol. The tramadol (he is 
unsure of the frequency he was taking it) did not relieve his 
pain His gabapentin was also increased to 200mg qam and 300mg 
qpm.  As per OMR documentation, he re-presented to urgent care 
on ___ with worsening neck, L shoulder and a rash. As per 
the patient, the rash appeared on ___ and started as "small 
blisters." At the time, the patient was noted to have small 
papules and vesicles on erythematous bases in dermatome 
distribution left arm. He was instructed to take Oxycodone twice 
a day, continue with gabapentin for pain control. He was also 
started on valacyclovir 1 g TID for 10 days, as well as 
prednisone 60 mg daily for 4 days.

The patient reported in the interim he has been taking oxycodone 
5mg twice during the day in addition to 10mg qHs.  This has 
helped the pain somewhat, but he continues to have ___ pain 
that is the same in character as previously. He also reports 
that he has had tingling in his hands and feet that since the 
protocol for his relapsed B cell lymphoma has worsened.

Additionally, over the past few weeks, the patient has reported 
that his L lower molar, which he has has a route canal to, has 
fragmented and he has not seen a dentist in the meantime. He 
denies any fevers, chills, difficult chewing, dysphagia, 
odynophagia.

 
Past Medical History:
-Peripheral vascular disease
-HTN
-Hyperlipidemia
-Macular degeneration (legally blind)
-Osteoarthritis
-H/O colon polyps
-GERD
-Prostate cancer
-Inguinal hernias
-Mesenteric B cell Lymphoma (diagnosed ___ s/p 2 cycles of 
CHOP and admisson from ___
 
Social History:
___
Family History:
Father died of heart problems.  Mother died at age ___, had 
alzheimer's dementia and muscular dystrophy.  He had one sister 
with breast cancer, 2 with heart problems (all deceased).
 
Physical Exam:
Admission:
General: Well appearing,
HEENT: Fragmented L lower molar, but no obvious signs of 
abscess.  
Neck:  No cervical lymphadenopathy 
CV:  Nl S1, S2, irregular rate, No MRG
Lungs: CTAB, No wheezes, crackles, rhonchi
Abdomen:Soft, NT/ND, +Bowel sounds
Ext: Warm, well-perfused, No c/c, trace b/l edema   
Neuro: Legally blind, unable to identify number of fingers 
approximately 1 foot away. CNIII-XII grossly intact
SKIN: multiple seborrhic keratoses, L arm crusted over small 
approximately 3mm circular lesions. No evidence of vesicles. 

Discharge:
VITALS: Tm 98.5 124/64 80 20 96%RA  
General: comfortable appearing  
CV: Nl S1, S2, irregular rate, No MRG  
Lungs: CTAB, No wheezes, crackles, rhonchi  
Abdomen:Soft, NT/ND, +Bowel sounds  
Ext: Warm, well-perfused, No c/c, trace b/l edema  
SKIN: multiple seborrhic keratoses, L arm crusted over small 
approximately 3mm circular lesions. No evidence of vesicles.  

 
Pertinent Results:
LABS:

___ 11:08AM BLOOD WBC-5.3 RBC-4.34* Hgb-12.9* Hct-39.1* 
MCV-90 MCH-29.7 MCHC-32.9 RDW-17.1* Plt ___
___ 07:15AM BLOOD WBC-4.2 RBC-4.22* Hgb-12.4* Hct-38.3* 
MCV-91 MCH-29.3 MCHC-32.3 RDW-17.8* Plt ___
___ 06:40AM BLOOD ___ PTT-27.2 ___
___ 07:25AM BLOOD Glucose-97 UreaN-16 Creat-1.0 Na-139 
K-4.3 Cl-105 HCO3-30 AnGap-8
___ 07:15AM BLOOD Glucose-94 UreaN-33* Creat-1.2 Na-137 
K-4.8 Cl-108 HCO3-24 AnGap-10
___ 06:30AM BLOOD ALT-24 AST-19 LD(LDH)-130 AlkPhos-60 
TotBili-0.3
___ 06:30AM BLOOD Digoxin-0.7*

EKG ___:
Sinus rhythm and occasional ventricular ectopy. Diffuse 
non-specific  
ST-T wave changes, improved as compared with previous tracing of 
___. 
Ventricular ectopy persists without diagnostic interim change. 

 
Brief Hospital Course:
___ y/o M PMH significant for non-hodgkin's lymphoma, relapsed 
diffuse large b cell lymphoma s/p 6 cycles of CHOP, no longer on 
protocol for his ___ for peripheral neuropathy who is being 
admitted for neuropathic pain secondary to zoster.

# Post herpetic neuralgia: Patient presented to outpatient 
clinic on ___ with clinical presentation and physical exam that 
was consistent with herpes zoster along left arm. He was treated 
with valacyclovir 1 g TID for 10 days, as well as prednisone 60 
mg daily for 4 days. He was started on Cymbalta and Lyrica. He 
had a cervical epidural block with ropivicaine and steroids with 
anesthesia on ___. His pregabalin was also increased to 150mg 
TID. The intermittent burning/lancenating pain improved 
significantly. He still had significant, ___, dull pain 
throughout the left arm and was also experiencing allodynia. He 
underwent IV lidocaine infusion with 300mg lidocaine over 3 
hours on ___. He had no improvement in his achey left arm pain. 
Oxycodone and tramadol were mostly ineffective; and morphine 
caused significant AMS. He was discharged home on pregabalin 
150mg TID, duloxetine 30mg daily, and valacyclovir 1gm daily. He 
is scheduled to followup in the pain management clinic for 
potential stellate ganglion block as there is suspicion for a 
component of complex regional pain syndrome contributing to the 
patient's post-herpetic left arm pain.

# Peripheral Neuropathy: Improved after discontinuing gabapentin 
and starting duloxetine / pregabalin. Discharged on duloxetine 
30mg daily and pregabalin 150mg TID.

# Doxorubicin-Induced Cardiomyopathy: Last EF 50% on echo in 
___. Appears euvolemic on exam. Continued losartan, 
carvedilol, and digoxin.

# Relapsed diffuse large b cell lymphoma s/p 6 cycles of CHOP, 
no longer on protocol for his ___ for peripheral neuropathy. 
Thought to be in remission. Will f/u with Dr. ___ in 
___ clinic.

# BPH: Continued tamsulosin.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Carvedilol 6.25 mg PO BID 
hold for HR<55, BP<100 
3. Digoxin 0.125 mg PO DAILY 
4. Losartan Potassium 50 mg PO DAILY 
hold for BP<100 
5. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
hold for sedation rr<10 
6. Tamsulosin 0.4 mg PO HS 
7. B Complex *NF* (B complex vitamins)    Oral daily 
8. LOPERamide 2 mg PO QID:PRN diarrhea 
9. Docusate Sodium 100 mg PO BID:PRN constipation 
10. Gabapentin 200 mg PO QAM 
11. Gabapentin 300 mg PO HS 
12. ValACYclovir 1000 mg PO Q24H 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. Carvedilol 6.25 mg PO BID 
3. Digoxin 0.125 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID:PRN constipation 
5. Losartan Potassium 50 mg PO DAILY 
6. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
7. Tamsulosin 0.4 mg PO HS 
8. B Complex *NF* (B complex vitamins) 0   ORAL DAILY 
9. LOPERamide 2 mg PO QID:PRN diarrhea 
10. ValACYclovir 1000 mg PO Q24H 
11. Duloxetine 30 mg PO DAILY 
RX *duloxetine [Cymbalta] 30 mg 1 capsule,delayed 
___ by mouth daily Disp #*30 Capsule Refills:*1
12. Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule,delayed ___ by 
mouth daily Disp #*30 Capsule Refills:*1
13. Pregabalin 150 mg PO TID 
RX *pregabalin [Lyrica] 150 mg 1 capsule(s) by mouth three times 
a day Disp #*90 Capsule Refills:*1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Post-herpetic neuralgia

Secondary diagnosis:
Diffuse large B cell lymphoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of ___ at ___. 
___ came in for increasing pain in your left shoulder and arm 
which was related to your recent shingles outbreak. We gave ___ 
IV and topical pain medication to help reduce the pain. We 
started 2 new medications, Cymbalta and Lyrica, which have 
helped with the burning sensation. ___ were seen by the pain 
specialists, who performed an epidural injection with 
anesthetics and steroids. They also tried an infusion of IV 
lidocaine. These procedures have yet to significantly reduce the 
achey pain in your left arm. ___ will be discharged with 
followup in the pain management clinic where they will discuss 
the possibility of other procedures to help relieve the pain in 
your arm.

Again, it was a pleasure taking part in your care. We wish ___ a 
speedy recovery and hope to see ___ back out on the golf course 
soon!
 
Followup Instructions:
___